US06613803B1
4-(4-Pyridinoxy)benzaldehyde semicarbazone
To a solution of 4-(4-pyridinoxy)benzaldehyde (570 mg, 2.86 mmol) in ethanol (10 mL) was added a solution of semicarbazide hydrochloride (350 mg, 3.03 mmol) and sodium acetate (235 mg, 2.86 mmol) in water (5 mL). The mixture was stirred at room temperature for 30 min., diluted with ethyl acetate (75 mL), washed with 2N NaOH, water and brine, dried over Na2SO4, concentrated in vacuo to yield the title compound as a white solid (720 mg, 2.77 mmol, 97%), mp: 212-213° C. 1H NMR (DMSO-d6): δ 10.29 (s, 1H), 8.49 (d, J=4.9, 2H), 7.87 (s, 1H), 7.84 (d, J=8.5, 2H), 7.19 (d, J=8.5, 2H), 6.96 (d, J=4.9, 2H), 6.53 (s, 2H).

reactant | 4-(4-pyridinoxy)benzaldehyde | 2.86 mmol, 570 mg | N1=CC=C(C=C1)OC1=CC=C(C=O)C=C1 | C12H9NO2
reactant | semicarbazide hydrochloride | 3.03 mmol, 350 mg | Cl.NNC(=O)N
reactant | sodium acetate | 2.86 mmol, 235 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-Pyridinoxy)benzaldehyde semicarbazone | 2.77 mmol, 720 mg, 97% | N1=CC=C(C=C1)OC1=CC=C(C=NNC(=O)N)C=C1 | C13H12N4O2
